US04456716
N-Phenyl-2-(3,5-di-tert-butyl-4-hydroxyphenylthio)-succinimide
The procedure of Example 1 is repeated using 10 grams of 2,6-di-tert-butyl-4-mercaptophenol, 7.26 grams of N-phenyl maleimide, and 0.73 grams of triethylamine. The residue is recrystallized from isopropanol to give 2.3 grams (48% yield) of white solid, m.p. 134°-137° C.

reactant | 2,6-di-tert-butyl-4-mercaptophenol | 10 grams | C(C)(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | N-phenyl maleimide | 7.26 grams | C1(=CC=CC=C1)N1C(C=CC1=O)=O | C10H7NO2
solvent | triethylamine | 0.73 grams | C(C)N(CC)CC | C6H15N
product | N-Phenyl-2-(3,5-di-tert-butyl-4-hydroxyphenylthio)-succinimide | 2.3 grams, 48% yield | C1(=CC=CC=C1)N1C(C(CC1=O)SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C24H29NO3S
